US06566526B2
Step c1: 2-(4-(4-Chloro-1-Oxobutyl)-Phenyl-2-Methylpropanol
Mix 2-(4-(4-chloro-1-oxobutyl)-phenyl-2-methyl propanol acetate, concentrated hydrochloric acid (555 mL), and ethanol (2.5) and reflux for 2.5 hours under a nitrogen atmosphere. Evaporate the solvent in vacuo and take the residue up in methylene chloride (1L). Wash sequentially with water (2×400 mL), aqueous potassium carbonate (10%, 200 mL) and water (300 mL). Evaporate the solvent in vacuo to give the title compound as a light-brown oil (200 g, 90%).

reactant | 4-(4-chloro-1-oxobutyl)-phenyl-2-methyl propanol acetate | C(C)(=O)OC(C(C)C)C1=CC=C(C=C1)C(CCCCl)=O | C16H21ClO3
reactant | hydrochloric acid | 555 mL | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-Chloro-1-Oxobutyl)-Phenyl-2-Methylpropanol | 200 g, 90% | ClCCCC(=O)C1=CC=C(C=C1)C(C(C)C)O | C14H19ClO2
